US07786199B2
Tris(2,4-di-tert.butylphenyl)phosphate
tris(2,4-Di-tert.butylphenyl)phosphite (5146 g; Irgafos® 168, Ciba Specialty Chemicals) and isopropanol (IPA, 7890 g) are mixed in a reaction vessel and heated to 55-60° C. At this point the mixture is a slurry of approximately 39.0% solids. The peroxide (549 g, 50 weight-% solution of H2O2 in water, 1 equivalent) is added for 2-3 hours while maintaining the pot temperature (reaction is exothermic). After the peroxide addition, the mixture is maintained for 1 hour at 60° C. The reaction mass is homogeneous and the completeness of reaction is checked by LC (>97.0% conversion). Water (1355 g) is added, and the reaction mass is seeded to induce crystallization. Cooling slowly in 2 steps to 45° C. and then to 20° C. completes crystallization. The product is filtered (25μ screen), then dried at 70° C. under full vacuum with a nitrogen sweep.

reactant | tris(2,4-Di-tert.butylphenyl)phosphite | 5146 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)OP(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
reactant | isopropanol | 7890 g | C(C)(C)O | C3H8O
solvent | Water | 1355 g | O | H2O
product | Tris(2,4-di-tert.butylphenyl)phosphate | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)OP(=O)(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O4P
